### PR TITLE
feat: add `Nat.[shiftLeft_or_distrib`, shiftLeft_xor_distrib`, shiftLeft_and_distrib`, `testBit_mul_two_pow`, `bitwise_mul_two_pow`, `shiftLeft_bitwise_distrib]`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds theorems `Nat.[shiftLeft_or_distrib`, shiftLeft_xor_distrib`, shiftLeft_and_distrib`, `testBit_mul_two_pow`, `bitwise_mul_two_pow`, `shiftLeft_bitwise_distrib]`, to prove `Nat.shiftLeft_or_distrib` by emulating the proof strategy of `shiftRight_and_distrib`. 

In particular, `Nat.shiftLeft_or_distrib` is necessary to simplify the proofs in #6476.

### CODE REVIEW

**Comment by luisacicolini** [comment]
changelog-library

**Comment by luisacicolini** [comment]
I am especially skeptical about the `testBit_mul_two_pow` proof strategy, however, I could not find a better one.

File: src/Init/Data/Nat/Bitwise/Lemmas.lean [hunk 1]
```diff
@@ -711,6 +749,13 @@ theorem mul_add_lt_is_or {b : Nat} (b_lt : b < 2^i) (a : Nat) : 2^i * a + b = 2^
   rw [mod_two_eq_one_iff_testBit_zero, testBit_shiftLeft]
   simp
 
+theorem shiftLeft_bitwise_distrib {a b : Nat} (of_false_false : f false false = false := by rfl) :
+    (bitwise f a b) <<< i = bitwise f (a <<< i) (b <<< i) := by
+  simp [shiftLeft_eq, bitwise_mul_two_pow of_false_false]
+
+theorem shiftLeft_or_distrib {a b : Nat} : (a ||| b) <<< i = a <<< i ||| b <<< i :=
+  shiftLeft_bitwise_distrib
+
```
Comment (alexkeizer) [inline src/Init/Data/Nat/Bitwise/Lemmas.lean:758]: Could you add a `shiftLeft_{and, xor}_distrib` and such for other bitwise operations, too?

File: src/Init/Data/Nat/Bitwise/Lemmas.lean [hunk 2]
```diff
@@ -115,6 +115,35 @@ theorem testBit_add (x i n : Nat) : testBit x (i + n) = testBit (x / 2 ^ n) i :=
...
+      rw [Nat.mul_comm, Nat.div_mul_cancel]
+      suffices hs : 2 * (x * 2 ^ (k - 1)) = x * 2 ^ k by
+        exact ⟨_, hs.symm⟩
+      let j := k - 1
+      have hj : 2 ^ (k - 1) = 2 ^ j := by simp only [j]
+      have hj' : 2 ^ k = 2 ^ (j + 1) := by simp only [j]; rw [Nat.sub_add_cancel]; omega
+      rw [hj, hj']
+      simp only [Nat.pow_add, Nat.pow_one, j, k]
+      rw [Nat.mul_comm, Nat.mul_assoc]
+    omega
```
Comment (alexkeizer) [inline src/Init/Data/Nat/Bitwise/Lemmas.lean:145]: Could you separate out the two branches of the proof into their own lemmas: `testBit_mul_two_pow_of_le` that takes in `n <= i` as hypothesis and `testBit_mul_two_pow_of_lt` that takes in `i < n` (feel free to come up with other names, especially if they convey the flip in variable order more clearly). Each of these will look a bit more manageable, and then this proof becomes a trivial consequence.

File: src/Init/Data/Nat/Bitwise/Lemmas.lean [hunk 3]
```diff
@@ -452,6 +481,15 @@ theorem bitwise_lt_two_pow (left : x < 2^n) (right : y < 2^n) : (Nat.bitwise f x
...
         apply Nat.add_lt_add <;> exact hyp1
 
+theorem bitwise_mul_two_pow (of_false_false : f false false = false := by rfl) :
+  (bitwise f x y) * 2 ^ n = bitwise f (x * 2 ^ n) (y * 2 ^ n) := by
+  apply Nat.eq_of_testBit_eq
+  simp only [testBit_mul_two_pow, testBit_bitwise of_false_false, Bool.if_false_right]
+  intro i
+  by_cases hn : n ≤ i
+  · simp [hn]
+  · simp [hn, of_false_false]
```
Comment (alexkeizer) [inline src/Init/Data/Nat/Bitwise/Lemmas.lean:491]:
```suggestion
theorem bitwise_mul_two_pow (of_false_false : f false false = false := by rfl) :
    (bitwise f x y) * 2 ^ n = bitwise f (x * 2 ^ n) (y * 2 ^ n) := by
  apply Nat.eq_of_testBit_eq
  simp only [testBit_mul_two_pow, testBit_bitwise of_false_false, Bool.if_false_right]
  intro i
  by_cases hn : n ≤ i
  · simp [hn]
  · simp [hn, of_false_false]
```

Check your formatting

**Comment by luisacicolini** [comment]
awaiting-review

File: src/Init/Data/Nat/Bitwise/Lemmas.lean [hunk 4]
```diff
@@ -115,6 +115,33 @@ theorem testBit_add (x i n : Nat) : testBit x (i + n) = testBit (x / 2 ^ n) i :=
...
+    rw [Nat.mul_div_assoc, Nat.pow_div (by omega) (by omega), Nat.mul_comm, Nat.mul_assoc, ← Nat.pow_one (a := 2), ← Nat.pow_add, Nat.sub_add_cancel (by omega)]
+    simp only [Nat.pow_one, Nat.pow_dvd_pow (m := 1) (n := k) (a := 2) (by omega), k]
+  omega
+
+theorem testBit_mul_two_pow (x i n : Nat) :
+    testBit (x * 2 ^ n) i = if n ≤ i then testBit x (i - n) else false := by
+  by_cases hni : n ≤ i
+  · simp [hni, testBit_mul_two_pow_le hni]
+  · have : i < n := by omega
+    simp [hni, testBit_mul_two_pow_gt this]
```
Comment (alexkeizer) [inline src/Init/Data/Nat/Bitwise/Lemmas.lean:143]:
```suggestion
  split
  · simpa [*] using testBit_mul_two_pow_le (by assumption)
  · simpa [*] using testBit_mul_two_pow_gt (by omega)
```

This might well be excessive golfing; feel free to ignore.

I *personally* prefer `split` over `by_cases` since it reduces the need to duplicate the condition, and the latter invokes classicality (although the general consensus is that avoiding classicality is usually not worth it).

Using `simpa [...] using testBit_mul_two_pow_gt _` forces unification, so that `by omega` just works for the sidecondition, avoiding the need for the `have` with an explicit type. You could also apply one golf and not the other:
```lean
by_cases hni : n ≤ i
· simpa [hni] using testBit_mul_two_pow_le hni
· simpa [hni] using testBit_mul_two_pow_gt (by omega)
```

I'll leave it to you to decide which one is prettiest

File: src/Init/Data/Nat/Bitwise/Lemmas.lean [hunk 5]
```diff
@@ -115,6 +115,33 @@ theorem testBit_add (x i n : Nat) : testBit x (i + n) = testBit (x / 2 ^ n) i :=
...
+    testBit (x * 2 ^ n) i = false := by
+  simp only [testBit, ← shiftLeft_eq, one_and_eq_mod_two, mod_two_bne_zero, beq_eq_false_iff_ne,
+    ne_eq]
+  let k := n - i
+  have hk : x <<< n >>> i = x <<< (k + i) >>> i := by simp only [k]; rw [Nat.sub_add_cancel (by omega)]
+  rw [hk, Nat.shiftLeft_add, Nat.shiftLeft_shiftRight, shiftLeft_eq]
+  have hx : 2 * (x * 2 ^ k / 2 ^ 1) = x * 2 ^ k := by
+    rw [Nat.mul_div_assoc, Nat.pow_div (by omega) (by omega), Nat.mul_comm, Nat.mul_assoc, ← Nat.pow_one (a := 2), ← Nat.pow_add, Nat.sub_add_cancel (by omega)]
+    simp only [Nat.pow_one, Nat.pow_dvd_pow (m := 1) (n := k) (a := 2) (by omega), k]
+  omega
```
Comment (alexkeizer) [inline src/Init/Data/Nat/Bitwise/Lemmas.lean:136]:
```suggestion
  simp only [testBit, ← shiftLeft_eq, one_and_eq_mod_two, mod_two_bne_zero, beq_eq_false_iff_ne,
    ne_eq]
  suffices ∃ y, x <<< n >>> i = 2 * y by omega
  let k := n - i
  refine ⟨x * 2 ^ (k - 1), ?_⟩
  calc  x <<< n >>> i
    _ = x <<< (k + i) >>> i := by rw [Nat.sub_add_cancel (by omega)]
    _ = x * 2 ^ k           := by rw [Nat.shiftLeft_add, Nat.shiftLeft_shiftRight, shiftLeft_eq]
    _ = x * 2 ^ (k - 1 + 1) := by rw [Nat.sub_add_cancel (by omega)]
    _ = 2 * _               := by rw [Nat.pow_succ, ← Nat.mul_assoc, Nat.mul_comm]
```

Here's another implementation of the same proof strategy; I like to use `calc` over a sequence of `have`s, since it makes the flow a bit clearer.

Here, my suggested proof is a bit larger. The nice thing of `suffices` is that it counts as terminal, so if desired, you could fold the `simp only` into the `suffices`, i.e., replace
```
simp only [...]
suffices ... := by omega
```
with
```
suffices ... := by simp [testBit, ← shiftLeft_eq]; omega
```

This is a bit more legible to me, but I've not seen `suffices` suggested over `simp only` elsewhere so I'm not sure what the consensus is around maintainability.

File: src/Init/Data/Nat/Bitwise/Lemmas.lean [hunk 6]
```diff
@@ -115,6 +115,33 @@ theorem testBit_add (x i n : Nat) : testBit x (i + n) = testBit (x / 2 ^ n) i :=
     rw [← Nat.add_assoc, testBit_add_one, ih (x / 2),
       Nat.pow_succ, Nat.div_div_eq_div_mul, Nat.mul_comm]
 
+theorem testBit_mul_two_pow_le {x i n : Nat} (h : n ≤ i) :
+    testBit (x * 2 ^ n) i = testBit x (i - n) := by
+  simp only [testBit, one_and_eq_mod_two, mod_two_bne_zero]
+  let j := i - n
+  have hj : (x * 2 ^ n) >>> i = (x * 2 ^ n) >>> (j + n) :=  by simp only [j]; rw [Nat.sub_add_cancel (by omega)]
+  have hj' : x >>> (i - n) = x >>> j :=  by simp only [j]
+  rw [hj, hj', ← shiftLeft_eq, Nat.add_comm, shiftRight_add, shiftLeft_shiftRight]
```
Comment (alexkeizer) [inline src/Init/Data/Nat/Bitwise/Lemmas.lean:124]:
```suggestion
  have hj : (x * 2 ^ n) >>> i = (x * 2 ^ n) >>> (j + n) := by simp only [j]; rw [Nat.sub_add_cancel (by omega)]
  have hj' : x >>> (i - n) = x >>> j := by simp only [j]
  rw [hj, hj', ← shiftLeft_eq, Nat.add_comm, shiftRight_add, shiftLeft_shiftRight]
```

You could also consider doing a `calc`-style proof here

File: src/Init/Data/Nat/Bitwise/Lemmas.lean (hunk 4 above)
Comment (luisacicolini) [reply src/Init/Data/Nat/Bitwise/Lemmas.lean:143]: Thanks! I actually like the `simpa` proof better :)

File: src/Init/Data/Nat/Bitwise/Lemmas.lean [hunk 7]
```diff
@@ -115,6 +115,34 @@ theorem testBit_add (x i n : Nat) : testBit x (i + n) = testBit (x / 2 ^ n) i :=
...
+  simp only [testBit, ← shiftLeft_eq, one_and_eq_mod_two, mod_two_bne_zero, beq_eq_false_iff_ne,
+    ne_eq]
+  suffices ∃ y, x <<< n >>> i = 2 * y by omega
+  let k := n - i
+  refine ⟨x * 2 ^ (k - 1), ?_⟩
+  calc  x <<< n >>> i
+    _ = x <<< (k + i) >>> i := by rw [Nat.sub_add_cancel (by omega)]
+    _ = x * 2 ^ k           := by rw [Nat.shiftLeft_add, Nat.shiftLeft_shiftRight, shiftLeft_eq]
+    _ = x * 2 ^ (k - 1 + 1) := by rw [Nat.sub_add_cancel (by omega)]
+    _ = 2 * _               := by rw [Nat.pow_succ, ← Nat.mul_assoc, Nat.mul_comm]
```
Comment (kim-em) [inline src/Init/Data/Nat/Bitwise/Lemmas.lean:138]: Don't these follow immediately from `Nat.testBit_shiftLeft`?

**Comment by luisacicolini** [comment]
awaiting-review

File: src/Init/Data/Nat/Bitwise/Lemmas.lean [hunk 8]
```diff
@@ -711,6 +711,33 @@ theorem mul_add_lt_is_or {b : Nat} (b_lt : b < 2^i) (a : Nat) : 2^i * a + b = 2^
...
+theorem shiftLeft_and_distrib {a b : Nat} : (a &&& b) <<< i = a <<< i &&& b <<< i :=
+  shiftLeft_bitwise_distrib
+
+theorem shiftLeft_or_distrib {a b : Nat} : (a ||| b) <<< i = a <<< i ||| b <<< i :=
+  shiftLeft_bitwise_distrib
+
+theorem shiftLeft_xor_distrib {a b : Nat} : (a ^^^ b) <<< i = a <<< i ^^^ b <<< i :=
+  shiftLeft_bitwise_distrib
+
+
```
Comment (luisacicolini) [inline src/Init/Data/Nat/Bitwise/Lemmas.lean:740]:
```suggestion
```
